US06949551B2
Step 1: 3-acetyl-1-chloro-2,5-dihydroxybenzene
8.7 g of 3-acetyl-1-chloro-2-hydroxy-5-methoxybenzene were taken up in 150 ml of hydrobromic acid (48% strength in water). 1.69 g of red phosphorus were added, and the mixture was then stirred at 85° C. for 15 hours. After cooling, the reaction mixture was poured into about 1 liter of ice-cold water and extracted with ethyl acetate. The crude product obtained after drying and concentration of the ethyl acetate phase was purified by column chromatography. Yield: 2.9 g (36%)

reactant | 3-acetyl-1-chloro-2-hydroxy-5-methoxybenzene | 8.7 g | C(C)(=O)C=1C(=C(C=C(C1)OC)Cl)O | C9H9ClO3
solvent | hydrobromic acid | 150 ml | Br | BrH
product | 3-acetyl-1-chloro-2,5-dihydroxybenzene | C(C)(=O)C=1C(=C(C=C(C1)O)Cl)O | C8H7ClO3
